US07304062B2
Step A: Preparation of methyl 4-benzyloxybutyrate
To a solution of 4-benzyloxybutyric acid (54.8 g, 0.282 mol) in methanol (1.4 L), was added sulfuric acid (concentrated, 1.4 mL) dropwise and it was stirred at room temperature under nitrogen overnight. The reaction mixture was concentrated on a rota-vapor, the residue was then partitioned between ethyl acetate (700 mL) and saturated sodium bicarbonate aqueous solution (200 mL). The organic phase was separated, washed with brine (2×100 mL), then dried over Na2SO4 and filtered. Evaporation of solvent gave the titled compound as an oil that was used in step B without further purification.

reactant | 4-benzyloxybutyric acid | 0.282 mol, 54.8 g | C(C1=CC=CC=C1)OCCCC(=O)O | C11H14O3
reactant | sulfuric acid | 1.4 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 1.4 L | CO | CH4O
product | methyl 4-benzyloxybutyrate | C(C1=CC=CC=C1)OCCCC(=O)OC | C12H16O3
